Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Compazine
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old woman with anaplastic
astrocytoma who presented with intractable severe headache.

She was recently admitted from ___ - ___ for headaches and
fever. Initially there was concern for infection related to 
brain
biopsy but all infectious studies were negative. HA was
controlled with Fioricet. Her home prednisone was increased
during admission and returned to home dose on discharge.

Since discharge, she has continued to have headaches as well as
significant nausea for which she is taking Zofran BID. She was
also started on Avastin on ___ without noted adverse
reaction. She notes that last night her headache worsened to the
point that it woke her from sleep. She says that at that point
she took her temperature and noted it to be ~102 degrees (oral
thermometer). She says that her home fiorecet was ineffective 
and
that she has experienced significant associated 
photo/phonophobia
and nausea that became intolerable. She also notes that 
yesterday
(___) she developed a unilateral, pruritic truncal rash that
wrapped around the front and back of her body and did not cross
the midline. She notes that the rash was preceded by pain in the
area. She further states that last night her right cheek swelled
and became erythematous and tender. This has improved somewhat
but she states she still notes significant swelling. 

She presented to the ED this morning due to concern for her
worsened headache.

In the ED,

- Initial vitals: T 99.5, HR 99, BP 139/80, RR 18, O2 99%RA

- Exam notable for: Uncomfortable appearing, no meningeal signs,
no neurologic deficits.

- Labs notable for: no WBC, Chem-7 stable, Coags ok, Lactate 
2.1,
UA bland. UCX & BCX obtained.

- Imaging notable for: NCHCT without acute process, CXR without
acute process.

- Pt given: 4mg IV Morphine, 0.5mg IV Dilaudid x3, Dexamethasone
2mg, Famotidine 20mg, 1L LR, 2000mg IV Keppra, 10mg IV Reglan

Her pain improved significantly with IV dilaudid. The ED team
communicated with Dr. ___ recommended admission for
treatment of uncontrolled headaches.

Upon arrival to the floor, the patient notes that her headache 
is
severe and poorly controlled. She denies neck pain, confusion.
She states she feels very nauseated. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
- ___: started having episodes of metallic taste and loss
of taste sensation
- ___ - vague feeling of mild memory issues. loss of taste. 

- Early ___: started feeling episodes of strange/strong
smells- burning rubber. 
- ___ - severe persistent episode of strong burning rubber
like smell while driving. decided to call EMS after she got 
home,
had gen seizure with EMS, leading to OSH admission
- ___ - MRI brain w/wo - 7 X 8 X 9 mm enhancing lesion in
right hippocampus- ? right choroid plexus extension
- ___: CT torso with no definite primary 
- ___ right medial temporal stereotactic brain biopsy
pathology demonstrating anaplastic astrocytoma
- ___: started radiation / temazolamide

PAST MEDICAL HISTORY:  
Frequent UTIs ___ interstitial cystitis
Vertebral dissection on ASA ___
Restless Legs
Anxiety

 
Social History:
___
Family History:
Father died of esophageal cancer
Mother died of tracheal cancer
 
Physical Exam:
ADMISSION EXAM
#ERROR!
VS:  T 98.8  BP 126/85 HR 66  RR 18  SPO2  95% RA
GENERAL: Lying in bed with the lights off, hand over head in
distress. 
HEENT: White plaque over tongue. Right cheek with swelling,
non-tender to palpation, no erythema. Oropharyngeal exam without
evidence of abscess, erythema or tenderness to palpation.
PULM: No increased work of breathing on room air.
ABD: Abdomen soft, nondistended, nontender in all quadrants
EXT: WWP, no cyanosis, clubbing, or edema
SKIN: Warm and well perfused, Right trunk in the T10 dermatome
with infrequent papules with evidence of excoriation. No
vesicles.  
NEURO: AOx3. Cranial nerve exam without deficits. Strength and
sensation intact in bilateral upper and lower extremities. 

DISCHARGE EXAM
#ERROR!
VS: 24 HR Data (last updated ___ @ 822)
    Temp: 98.4 (Tm 98.6), BP: 118/70 (106-118/60-86), HR: 57
(57-81), RR: 18, O2 sat: 98% (95-99), O2 delivery: RA   

GENERAL: Lying in bed, comfortable.
HEENT: White plaque over tongue. Mild R facial swelling,
non-tender to palpation, no erythema. Oropharyngeal exam without
evidence of abscess, erythema or tenderness to palpation.
EXT: WWP, no cyanosis, clubbing, or edema
SKIN: Warm and well perfused, Right trunk in the T10 dermatome
with scattered papules, slight excoriation. No vesicles.
NEURO: AOx3.  
 
 
Pertinent Results:
ADMISSION LABS
#ERROR!
___ 05:20AM BLOOD WBC-6.7 RBC-3.52* Hgb-11.7 Hct-35.0 
MCV-99* MCH-33.2* MCHC-33.4 RDW-13.3 RDWSD-48.4* Plt ___
___ 05:20AM BLOOD Neuts-66.1 ___ Monos-11.3 Eos-1.2 
Baso-0.3 Im ___ AbsNeut-4.41 AbsLymp-1.37 AbsMono-0.75 
AbsEos-0.08 AbsBaso-0.02
___ 05:20AM BLOOD Plt ___
___ 06:03AM BLOOD ___ PTT-26.6 ___
___ 05:20AM BLOOD Glucose-108* UreaN-11 Creat-0.8 Na-140 
K-3.8 Cl-101 HCO3-24 AnGap-15
___ 07:05PM BLOOD ALT-28 AST-17 AlkPhos-86 TotBili-0.4
___ 07:05PM BLOOD Calcium-8.7 Phos-3.7 Mg-2.0
___ 06:13AM BLOOD Lactate-2.1*

DISCHARGE LABS
#ERROR!
___ 06:15AM BLOOD WBC-6.3 RBC-3.32* Hgb-11.0* Hct-33.2* 
MCV-100* MCH-33.1* MCHC-33.1 RDW-12.9 RDWSD-47.4* Plt ___
___ 06:15AM BLOOD Plt ___
___ 06:15AM BLOOD Glucose-100 UreaN-10 Creat-0.6 Na-143 
K-4.1 Cl-107 HCO3-26 AnGap-10
___ 06:15AM BLOOD Glucose-100 UreaN-10 Creat-0.6 Na-143 
K-4.1 Cl-107 HCO3-26 AnGap-10
___ 06:15AM BLOOD ALT-15 AST-10 AlkPhos-61 TotBili-<0.2
___ 06:15AM BLOOD Calcium-8.4 Phos-3.3 Mg-2.2

NOTABLE MICRO
#ERROR!
___ 7:30 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      BETA STREPTOCOCCUS GROUP B.    10,000-100,000 CFU/mL. 

IMAGING
#ERROR!
___ CT SINUS
IMPRESSION:   
1. Extensive dental amalgam associated streak artifact limits 
local evaluation of the maxilla and mandible.  No focal fluid 
collection or other infectious findings about the visualized 
face. 
2. 0.7 cm right temporal lobe hypodensity, better assessed on 
the prior MR 
studies, appears similar to prior. Minimal maxillary mucosal 
thickening, otherwise entirely clear paranasal sinuses.  No 
air-fluid levels. 

 
Brief Hospital Course:
HOSPITAL COURSE
#ERROR!
Ms. ___ is a ___ year-old woman with anaplastic 
astrocytoma who presented with intractable severe headache in 
the setting of recent corticosteroid taper, found to have 
minimal truncal rash within dermatome.

ACTIVE ISSUES
#ERROR!
# Headache
Presented with severe, intractable headache. CT w/o change in 
astrocytoma. Given recent steroid taper, suspect migraine as 
underlying etiology; seems to have improved with resumption of 
higher steroid dose. Of note, patient also initiated avastin on 
___ which causes headaches in up to 49% of persons and could 
be contributing to the overall picture. Was receiving 4mg dex IV 
BID inpatient, on discharge returned to home PO dex 2mg BID. 
Continued home fioricet 

# Rash
Patient with concern for truncal rash in a dermatomal 
distribution. Patient notes that pain preceded the onset of rash 
and pruritus. However, no vesicles anywhere on exam; merely 
scattered papules. Started acyclovir on admission due to unclear 
picture, will continue valacyclovir on discharge despite low 
concern for zoster. 

# Right Facial Swelling
R facial swelling which has improved. Noted in clinic on ___ 
and started on Clindamycin for empiric dental infection. 
However, had "many pills" left on ___ despite course planned to 
end ___, suspicious for having missed multiple medications. No 
abscess, localized tenderness to palpation. CT Mandible with no 
focal fluid collection or other infectious findings.

# Frequent UTI
# Interstitial Cystitis
Patient with h/o frequent UTIs on nitrofurantoin ppx. New 
dysuria inpatient.
Continued home nitrofurantoin and phenazopyridine prn.

# Thoracic Fracture
# Back Pain
Patient recently suffered a T9 compression fracture during a 
tonic clonic seizure, without signs or symptoms of cord 
compression. Current back pain may be the result of both 
compression fracture +/- zoster. Patient requiring narcotics for 
pain control initially while inpatient; now significantly 
improved. Will discharge with 20 tabs of tramadol.

# Seizures
Per review of last discharge summary, patient developed seizures 
in the setting of her diagnosis of astrocytoma. She was treated 
with Keppra and cvEEG did not demonstrate any epileptic 
activity; however, given the deep neuro-anatomical location of 
her lesion, it was deemed unlikely to show up on EEG. Her 
seizures were preceded by aura of smelling burning rubber. On 
last admission her keppra was increased to 2000mg BID in 
consultation with neurology, with improvement in symptoms. 

# Astrocytoma
Recently diagnosed on biopsy. Treatment with radiation, 
tezolomide and avastin (initiated ___. Per attending 
neurooncologist, temporary hold of tezolomide and radiation will 
not impact overall prognosis. Hold temozolomide and radiation 
for now, will restart ___.

CHRONIC ISSUES
#ERROR!
# ANXIETY
The patient has had worsening anxiety since her diagnosis. She 
was previously prescribed Ativan which she was taking multiple 
times per day. She initiated care with a psychiatrist on the day 
prior to admission who adjusted her medication regimen, which we 
will follow as below. 
- Continued clonazepam PRN for anxiety
- Continued zyprexa QHS
- Continued escitalopram

# RESTLESS LEGS
- Continued home amitriptyline and pramipexole

TRANSITIONAL ISSUES
#ERROR!
[] Steroid dose: Dexamethasone 2 mg PO Q12H, no change unless 
told so by oncology
[] Back pain: wrote TraMADol 50 mg PO Q6H:PRN Pain, 20 tabs; 
Lidocaine-Prilocaine 1 Appl TP BID 
[] ?Shingles: ValACYclovir 1000 mg PO TID x 7 day total course
[] Stopped PO temozolomide, will get IV infusions, starting 
___ 

# HCP/CONTACT: ___, ___ 
# CODE STATUS: Full, presumed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Headache 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
2. Amitriptyline 25 mg PO QHS 
3. Dexamethasone 2 mg PO Q12H 
This is the maintenance dose to follow the last tapered dose
4. Calcium Carbonate 500 mg PO QID:PRN indigestion 
5. Estrogens Conjugated 0.625 mg PO DAILY 
6. LevETIRAcetam ___ mg PO BID 
7. Lidocaine 5% Patch 1 PTCH TD QAM 
8. Nitrofurantoin (Macrodantin) 100 mg PO QHS 
9. Phenazopyridine 200 mg PO TID:PRN urinary pain  
10. Pramipexole 0.125 mg PO QHS restless leg 
11. Diazepam 5 mg PO Q6H:PRN Back spasms 
12. Famotidine 20 mg PO BID 
13. Milk of Magnesia 30 mL PO Q6H:PRN Constipation - Second Line 

14. Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
15. temozolomide 120 mg oral DAILY 
16. Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
17. ClonazePAM 0.5 mg PO BID:PRN anxiety 
18. Escitalopram Oxalate 10 mg PO DAILY 
19. OLANZapine 2.5 mg PO QHS 

 
Discharge Medications:
1.  Lidocaine-Prilocaine 1 Appl TP BID Duration: 1 Dose 
RX *lidocaine-prilocaine [AgonEaze] 2.5 %-2.5 %  twice a day 
Disp #*1 Kit Refills:*0 
2.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth q6hr PRN Disp #*20 
Tablet Refills:*0 
3.  ValACYclovir 1000 mg PO TID 
RX *valacyclovir 1,000 mg 1 tablet(s) by mouth three times a day 
Disp #*15 Tablet Refills:*0 
4.  Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN Headache 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
5.  Amitriptyline 25 mg PO QHS  
6.  Calcium Carbonate 500 mg PO QID:PRN indigestion  
7.  ClonazePAM 0.5 mg PO BID:PRN anxiety  
8.  Dexamethasone 2 mg PO Q12H 
This is the maintenance dose to follow the last tapered dose
RX *dexamethasone 2 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0 
9.  Docusate Sodium 100 mg PO BID:PRN Constipation - First Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
10.  Escitalopram Oxalate 10 mg PO DAILY  
11.  Estrogens Conjugated 0.625 mg PO DAILY  
12.  Famotidine 20 mg PO BID  
13.  LevETIRAcetam ___ mg PO BID  
14.  Lidocaine 5% Patch 1 PTCH TD QAM  
15.  Milk of Magnesia 30 mL PO Q6H:PRN Constipation - Second 
Line  
16.  Nitrofurantoin (Macrodantin) 100 mg PO QHS  
17.  OLANZapine 2.5 mg PO QHS  
18.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line  
19.  Phenazopyridine 200 mg PO TID:PRN urinary pain   
20.  Pramipexole 0.125 mg PO QHS restless leg  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# MIGRAINE
# ASTROCYTOMA

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital with headache, nausea, and fever.

The headache may have been from tapering off your steroids 
(dexamethasone). We restarted the steroids at a higher dose and 
your headaches improved.

You also had fevers, which you've had for a while with no clear 
source. We did a CT scan of your mandible to look for a dental 
infection but didn't find one.

You also had a rash which may be shingles, and we started an 
antiviral medication.

It was a privilege to care for you in the hospital, and we wish 
you all the best.

Sincerely,

Your ___ Health Team
 
Followup Instructions:
___